### PR TITLE
[Merged by Bors] - feat: multiplying an indicator by a constant

### PR DESCRIPTION
**Pull request by YaelDillies**
From GibbsMeasure

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/Indicator.lean [hunk 1]
```diff
@@ -40,6 +40,12 @@ lemma indicator_mul_right (s : Set ι) (f g : ι → M₀) :
   · rfl
   · rw [mul_zero]
 
+lemma indicator_mul_const (s : Set ι) (f : ι → M₀) (a : M₀) (i : ι) :
```
Comment (b-mehta) [inline Mathlib/Algebra/GroupWithZero/Indicator.lean:43]: Hmm, this file looks inconsistent on whether the statements are applied or not - I'd guess this one should be named `indicator_mul_const_apply`. What do you think?

File: Mathlib/Algebra/GroupWithZero/Indicator.lean [hunk 2]
```diff
@@ -40,6 +40,12 @@ lemma indicator_mul_right (s : Set ι) (f g : ι → M₀) :
...
+    s.indicator (fun j ↦ f j * a) i = s.indicator f i * a := by rw [indicator_mul_left]
```
Comment (b-mehta) [inline Mathlib/Algebra/GroupWithZero/Indicator.lean:44]: Could use a \cdot here if you'd like

File: Mathlib/Algebra/GroupWithZero/Indicator.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/Indicator.lean:43]: Maybe, but these new lemmas exactly match `indicator_mul_left` and `indicator_mul_right`, which I would rather not rename here because they are used in a few other files, unless you insist?

Comment (b-mehta) [reply Mathlib/Algebra/GroupWithZero/Indicator.lean:43]: Yeah that's fair, let's avoid it in this PR.

**Review by b-mehta — APPROVED** [review]
bors merge
